### PR TITLE
added sqr_inj

### PR DESCRIPTION
**Pull request by holgerthies**
##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/num_theory/numfield.v [hunk 1]
```diff
@@ -586,6 +586,11 @@ have := sqrtr_ge0 (a ^+ 2); rewrite (eqP ha) oppr_ge0 normr_le0 => /eqP ->.
 by rewrite normr0 oppr0.
 Qed.
 
+Lemma sqr_inj : {in Num.nneg &, injective (fun x : R => x ^+ 2)}.
+Proof.
+by move=> x y x0 y0 /(congr1 (@Num.sqrt R)); rewrite !sqrtr_sqr! ger0_norm.
```
Comment (CohenCyril) [inline algebra/num_theory/numfield.v]:
```suggestion
by move=> x y x0 y0 /(congr1 Num.sqrt); rewrite !sqrtr_sqr !ger0_norm.
```
